US08304546B2
3-Iodo-5-propoxy-4H-benzo[f]quinolin-1-one (1.06 g, 2.79 mmol) was suspended in dimethoxyethane (20 ml). Furan-3-boron acid (354 mg, 3.16 mmol), [1,1′-bis(diphenylphosphino)ferrocene]dichloropalladium (II)-dichloromethane complex (PdCl2(DPPF).CH2Cl2, 123 mg, 0.11 mmol) and a 2N aqueous sodium carbonate solution (4.0 ml) were sequentially added to the suspension. The mixture was stirred at 90 to 100° C. under a nitrogen atmosphere for hours. The reaction mixture was cooled to room temperature, water was added thereto, and the resulting mixture was subjected to extraction using dichloromethane. The thus-obtained organic layer was concentrated under reduced pressure, and the residue was purified using silica gel column chromatography (dichloromethane:ethyl acetate=80:1). The purified product was concentrated under reduced pressure, the residue was washed with ethyl acetate and then dried, giving a pale brown powder of 2-furan-3-yl-5-propoxy-4H-benzo[f]quinolin-1-one (430 mg, yield: 48%).

reactant | 3-Iodo-5-propoxy-4H-benzo[f]quinolin-1-one | 2.79 mmol, 1.06 g | IC=1NC=2C(=CC3=C(C2C(C1)=O)C=CC=C3)OCCC | C16H14INO2
reactant | sodium carbonate | 2N, 4.0 ml | C([O-])([O-])=O.[Na+].[Na+]
reactant | water | O | H2O
reactant | dimethoxyethane | 20 ml | C(OC)COC | C4H10O2
product | 2-furan-3-yl-5-propoxy-4H-benzo[f]quinolin-1-one | 430 mg, yield: 48% | O1C=C(C=C1)C1=CNC=2C(=CC3=C(C2C1=O)C=CC=C3)OCCC | C20H17NO3
